US07265246B2
Prepare a cold (0° C.) solution of 5-phenylthiazole-4-carboxylic acid ethyl ester (3.0 g, 12.9 mmol) in tetrahydrofuran (150 mL). Add LiAlH4 (488 mg, 12.9 mmol). Allow the reaction to slowly warm to room temperature and stir for 3 hours. Quench with water (25 mL) and filter through Celite®. Concentrate the filtrate in vacuo to a residue. Chromatograph (silica gel, 3:7 hexane/ethyl acetate) to afford (5-phenylthiazol-4-yl)methanol (1.4 g). 1H NMR (CDCl3) δ 8.75 (s, 1H), 7.40-7.55 (m, 5H), 4.80 (d, J=4 Hz, 2H), 3.15-3.22 (m, 1H).

reactant | 5-phenylthiazole-4-carboxylic acid ethyl ester | 12.9 mmol, 3.0 g | C(C)OC(=O)C=1N=CSC1C1=CC=CC=C1 | C12H11NO2S
reactant | LiAlH4 | 12.9 mmol, 488 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | (5-phenylthiazol-4-yl)methanol | 1.4 g | C1(=CC=CC=C1)C1=C(N=CS1)CO | C10H9NOS
